** sch_path: /foss/designs/EE628/5_Design/2_Idealized_circuits/tb_ideal_idsm1.sch
**.subckt tb_ideal_idsm1
Vp1 p1 GND dc 0 pulse(0, {vdd}, 5n, 100p, 100p, {per/2-5n}, {per})
E1 vo GND vx GND -10000
S1 net1 vi p1 GND mysw
Vp2 p2 GND dc {vdd} pulse({vdd}, 0, 0, 100p, 100p, {per/2+5n}, {per})
Vin vi GND dc 0.075
C1 net1 net3 1p m=1
S2 vx net3 p2 GND mysw
C2 vx vo 1p m=1
S3 net1 net2 p2 GND mysw
S4 net3 GND p1 GND mysw
E2 vcmp GND TABLE {V(vo,0)} = (-0.1mV, 0V) (0.1mV, {vdd})
Vdd VDD GND dc {vdd}
E3 net2 GND q GND {1/vdd}
Vresb resb GND dc 0 pwl(0, 0, {per/2}, 0, {per/2+100p} {vdd}
x1 q net4 p1 vcmp resb VDD VSS sg13g2_dfrbp_1
Vss VSS GND dc 0
**** begin user architecture code

.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.inc /foss/pdks/sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice



.param temp=27 vdd=1.2 per=1u
.model mysw SW vt={vdd/2} ron=10k roff=10gig
.option method=gear reltol=1e-4

.control
save all
tran 10n 64u
plot vo q
set wr_singlescale
set wr_vecnames
wrdata tb_ideal_idsm1.txt vo q p1 p2
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.GLOBAL VDD
.GLOBAL VSS
.end
